Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Tetracycline / Flagyl
 
Attending: ___.
 
Chief Complaint:
diverticular abscess
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ woman, who presented with ___ abdominal 
pain since ___ in LLQ.  Patient has not had much nausea 
except for a single episode last ___ when she vomited 
foodstuff and a small amount of bile. She is still having bowel 
movements and passing flatus, but her pain was much increased 
from her simple uncomplicated "diverticular flare" that she has 
had ___ x year.  She has never had an abscess or hospitalization 
for her prior episodes and has not
had abx. CT done thru PCP today which showed an abscess in her 
colon. Sent here for admission. Unasyn given x 1. Had 
colonoscopy ___ which showed 2 polyps, moderate 
diverticulosis.
 
Past Medical History:
Symptomatic Cholelithiasis 
Biliary obstruction s/p ERCP 
Anemia
 
Social History:
___
Family History:
Diverticulitis
 
Physical Exam:
Temp: 97.2 HR: 79 BP: 110/61 Resp: 18 O(2)Sat: 100 Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, mild LLQ tenderness w/o r/g. Nl BS.
Extr/Back: No cyanosis, clubbing or edema
Skin: Warm and dry
Neuro: Speech fluent
 
Pertinent Results:
___ 08:25PM BLOOD WBC-11.8*# RBC-3.99* Hgb-12.4 Hct-33.9* 
MCV-85 MCH-31.1 MCHC-36.7* RDW-12.3 Plt ___
___ 08:25PM BLOOD Neuts-75.6* ___ Monos-3.4 Eos-0.7 
Baso-0.4
___ 08:25PM BLOOD Plt ___
___ 08:25PM BLOOD Glucose-108* UreaN-33* Creat-2.0* Na-136 
K-3.6 Cl-95* HCO3-25 AnGap-20
___ 08:30PM BLOOD Lactate-1.3

___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 


___ 09:36PM URINE Color-Yellow Appear-Clear Sp ___
___ 09:36PM URINE Blood-NEG Nitrite-POS Protein-100 
Glucose-NEG Ketone-15 Bilirub-LG Urobiln-1 pH-5.0 Leuks-TR
___ 09:36PM URINE RBC-2 WBC-8* Bacteri-FEW Yeast-NONE Epi-6 
TransE-<1
___ 09:36PM URINE CastGr-1* CastHy-78*
___ 09:36PM URINE Mucous-OCC

___ 07:45AM BLOOD WBC-7.0 RBC-3.41* Hgb-10.7* Hct-29.1* 
MCV-85 MCH-31.2 MCHC-36.6* RDW-12.4 Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD ___ PTT-28.5 ___
___ 07:45AM BLOOD Glucose-90 UreaN-32* Creat-1.5* Na-140 
K-3.7 Cl-102 HCO3-27 AnGap-15
___ 07:45AM BLOOD Calcium-9.4 Phos-4.6* Mg-2.1

CT abd/pelv in ATRIUS  
1. Sigmoid diverticulitis with 4.3 x 4.7cm intraluminal abscess 
versus adjacent pelvic abscess. IV contrast would be helpful to 
differentiate, which was not administered due to elevated 
creatinine. Follow-up CT recommended to exclude an underlying 
mass.  
2. 3 mm noncalcified nodule in left lung base. Chest CT advised. 
 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female who has a history of 
diverticulosis and has been having abdominal pain for 4 days. 
Outpatient CT performed on ___ showed diverticulitis with a 4.3 
x 4.7 cm collection. She was referred to the emergency 
department for further evaluation.  Upon ED presentation, pt's 
abdomen was soft with normoactive bowel sounds, with mild LLQ 
tenderness w/o rebound tenderness or guarding.  Labs were 
notable for a slightly increased white count, chronic renal 
insufficiency, and a UTI. Pt was given Unasyn.  Given concern 
for worsening diverticular disease, diverticular abscess, pt was 
seen by surgery and admitted to ___ service.  Pt was made NPO, 
given IVF, IV abx, to good effect.  Symptomatic resolution seen, 
tolerating regular diet.  Given improving clinical picture, 
patient discharged on 7-day course of Augmentin on ___.
 
Medications on Admission:
___, Calci-Chew, multivitamin, lisinopril-hydrochlorothiazid

 
Discharge Medications:
1. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
3. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 6 days.
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
diverticular abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the ACS service for a diverticular abscess. 
Please resume all regular home medications. Please take any new 
medications as prescribed. If you have pain, you may take 
acetaminophen (Tylenol) as directed, but do not exceed 4000 mg 
in one day.

Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids. Please also follow-up 
with your PCP. 
 
Followup Instructions:
___